US09084794B2
d) (+)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(3-fluoroquinolin-7-yl)phenyl)acetamide
To a solution of 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide (110 mg, 0.25 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (63 mg, 0.25 mmol), and potassium acetate (49 mg, 0.5 mmol) in 1,4-dioxane (2.5 mL) was added PdCl2(dppf)-CH2Cl2 adduct (20.4 mg, 0.025 mmol). The reaction mixture was purged with nitrogen and then was heated at 120° C. for 4 h. The reaction mixture was cooled and 7-bromo-3-fluoroquinoline (56.5 mg, 0.25 mmol) and 2M aq K2CO3 (0.27 mL, 0.55 mmol) were added. The reaction mixture was purged with nitrogen and was heated with stirring at 100° C. for one hour. The reaction mixture was diluted with dichloromethane (60 mL), and salts were filtered away. The organic mixture was filtered through a plug of celite and sodium sulfate. The filtrate was treated with a small amount of Silicycle Si-thiol resin for 30 min and was then filtered and concentrated in vacuo. Purification of the residue by reverse phase HPLC (10-70% acetonitrile:water with 0.1% NH4OH) followed by chiral HPLC (Chromegachiral CC4, methanol) afforded the title product in >98% ee (34 mg, 27%). αD=+37 deg (c=0.04, methanol); MS(ES)+ m/e 507 [M+H]+; 1H NMR (400 MHz, CD2Cl2) δ ppm 0.60-0.69 (m, 2 H) 0.77-0.86 (m, 2 H) 1.64-1.77 (m, 2 H) 1.85-1.97 (m, 2 H) 2.26-2.38 (m, 1 H) 2.57 (d, J=14.40 Hz, 1 H) 2.66-2.76 (m, 2 H) 2.79 (d, J=10.86 Hz, 1 H) 3.15 (s, 2 H) 4.00 (d, J=1.77 Hz, 2 H) 4.53 (s, 1 H) 5.63 (br. s., 1 H) 7.26 (d, J=3.79 Hz, 1 H) 7.46 (t, J=7.71 Hz, 1 H) 7.56 (d, J=1.77 Hz, 1 H) 7.62 (dd, J=7.96, 1.89 Hz, 1 H) 7.84-7.93 (m, 2 H) 7.93-8.00 (m, 1 H) 8.38 (s, 1 H) 8.88 (d, J=2.78 Hz, 1 H).

reactant | 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide | 0.25 mmol, 110 mg | BrC1=CC(=C(C=C1)C(C(=O)N)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C19H23BrFN3O3
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.25 mmol, 63 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 0.5 mmol, 49 mg | C(C)(=O)[O-].[K+]
reactant | 7-bromo-3-fluoroquinoline | 0.25 mmol, 56.5 mg | BrC1=CC=C2C=C(C=NC2=C1)F | C9H5BrFN
reactant | K2CO3 | 0.55 mmol, 2M, 0.27 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.025 mmol, 20.4 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (+)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(3-fluoroquinolin-7-yl)phenyl)acetamide | C1(CC1)N1C(COC2(C1)CCN(CC2)C(C(=O)N)C2=C(C=C(C=C2)C2=CC=C1C=C(C=NC1=C2)F)F)=O | C28H28F2N4O3
